US06294566B1
1-(2-phenylquinolin-4-yl)-ethanone.
To methyl 2-phenyl-4-quinolinecarboxylate (1 g, 3.80 mmol) in 10 ml ether, at 0° C. was added MeLi (1.4M, 3.0 ml, 4.1 mmol) dropwise over a five minute period. The reaction mixture was stirred at 0° C. for 30 minutes and quenched by the addition of 10 ml of water. The ether layer was separated, dried over sodium sulfate, filtered, concentrated and purified (hexane:EtOAc; 4.5:0.5) to give 0.233 g (23%) of the product as a syrup which was used as such for the subsequent step.

reactant | methyl 2-phenyl-4-quinolinecarboxylate | 3.80 mmol, 1 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)OC | C17H13NO2
reactant | MeLi | 4.1 mmol, 1.4M, 3.0 ml | [Li]C
solvent | ether | 10 ml | CCOCC | C4H10O
product | 1-(2-phenylquinolin-4-yl)-ethanone | 0.233 g, 23% | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(C)=O | C17H13NO
